US05597776
6-Cyano-7-hydroxy-2-methylpyrido [2,3-d]pyrimidine
A suspension of 3 g (22 mmol) of 4-amino-5-formyl-3-methylpyrimidine, 5 g (44 mmol) of ethylcyanoacetate and 850 mg (100 mmol) of piperidine in 20 ml of ethanol was stirred for 20 hours at 20°-25° C. The fine-particled solid formed was separated off, freed from solvent residues under reduced pressure and suspended twice in 20 ml of ethanol each time. The crude product was finally washed with diethyl ether. Yield: 50% (fine powder); mp.: >200° C.

reactant | 4-amino-5-formyl-3-methylpyrimidine | 22 mmol, 3 g | NC=1N(CN=CC1C=O)C | C6H9N3O
reactant | ethylcyanoacetate | 44 mmol, 5 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | piperidine | 100 mmol, 850 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-Cyano-7-hydroxy-2-methylpyrido [2,3-d]pyrimidine | Yield: 50% | C(#N)C1=CC2=C(N=C(N=C2)C)N=C1O | C9H6N4O
